; `xyce` Sim Input for `__main__.Tb`
; Generated by `vlsirtools.XyceNetlister`
; 
; Anonymous `circuit.Package`
; Generated by Arya by hand

; Use sky130mux, alt_sky130mux.

.include package.sp


* sky130_fd_pr__nfet_01v8 d g s b
* sky130_fd_pr__pfet_01v8 d g s b
* sky130_fd_pr__pfet_01v8_hvt d g s b

; put some dfxtp_1 cells as the feeder inputs to the sky130_mux
.subckt lut
+ S0 S1 S2 S3 Z CONFIG_IN CONFIG_OUT CLK VPWR VGND

X0  clk  CONFIG_IN VGND VGND VPWR VPWR          1 sky130_fd_sc_hd__dfxtp_1 
X1  clk          1 VGND VGND VPWR VPWR          2 sky130_fd_sc_hd__dfxtp_1 
X2  clk          2 VGND VGND VPWR VPWR          3 sky130_fd_sc_hd__dfxtp_1 
X3  clk          3 VGND VGND VPWR VPWR          4 sky130_fd_sc_hd__dfxtp_1 
X4  clk          4 VGND VGND VPWR VPWR          5 sky130_fd_sc_hd__dfxtp_1 
X5  clk          5 VGND VGND VPWR VPWR          6 sky130_fd_sc_hd__dfxtp_1 
X6  clk          6 VGND VGND VPWR VPWR          7 sky130_fd_sc_hd__dfxtp_1 
X7  clk          7 VGND VGND VPWR VPWR          8 sky130_fd_sc_hd__dfxtp_1 
X8  clk          8 VGND VGND VPWR VPWR          9 sky130_fd_sc_hd__dfxtp_1 
X9  clk          9 VGND VGND VPWR VPWR         10 sky130_fd_sc_hd__dfxtp_1 
X10 clk         10 VGND VGND VPWR VPWR         11 sky130_fd_sc_hd__dfxtp_1 
X11 clk         11 VGND VGND VPWR VPWR         12 sky130_fd_sc_hd__dfxtp_1 
X12 clk         12 VGND VGND VPWR VPWR         13 sky130_fd_sc_hd__dfxtp_1 
X13 clk         13 VGND VGND VPWR VPWR         14 sky130_fd_sc_hd__dfxtp_1 
X14 clk         14 VGND VGND VPWR VPWR         15 sky130_fd_sc_hd__dfxtp_1 
X15 clk         15 VGND VGND VPWR VPWR CONFIG_OUT sky130_fd_sc_hd__dfxtp_1 

xmux_0
*+ n_1 n_0 n_3 n_2 n_5 n_4 2 1 3 4 14 13 15 CONFIG_OUT n_7 VPWR VGND 
+ n_1 n_0 n_3 n_2 n_5 n_4 1 2 3 4 5 6 7 8 n_7 VPWR VGND 
+ sky130_mux
+ ; No parameters
*
xmux_1
*+ n_1 n_0 n_3 n_2 n_5 n_4 11 12 10 9 7 8 6 5 n_8 VPWR VGND 
+ n_1 n_0 n_3 n_2 n_5 n_4 9 10 11 12 13 14 15 CONFIG_OUT n_8 VPWR VGND 
+ alt_sky130_mux
+ ; No parameters
*

xbuf_0
+ n_1 n_0 S0 VPWR VGND VPWR VGND
+ buf_0_template
+ ; No parameters

xbuf_1
+ n_3 n_2 S1 VPWR VGND VPWR VGND
+ buf_1_template
+ ; No parameters

xbuf_2
+ n_5 n_4 S2 VPWR VGND VPWR VGND
+ buf_2_template
+ ; No parameters

xbuf_3
+ n_6 n_9 S3 VPWR VGND VPWR VGND
+ buf_3_template
+ ; No parameters

xclk_buf_0
+ clk_0 clk_i_0 CLK VPWR VGND VPWR VGND
+ clk_buf_0_template
+ ; No parameters

xclk_buf_1
+ clk_1 clk_i_1 CLK VPWR VGND VPWR VGND
+ clk_buf_1_template
+ ; No parameters

*xhd_mux2_1_0
*+ n_6 n_7 n_8 Z VPWR VGND VPWR VGND
*+ hd_mux2_1_0_template
*+ ; No parameters

* fake parasitic capacitance of ~12 um wires
c0 n_0 0 2f
c1 n_1 0 2f
c2 n_2 0 2f
c3 n_3 0 2f
c4 n_4 0 2f
c5 n_5 0 2f

* fake parasitic capacitance of 20 um wires
c6 n_8 0 3.5f
c7 n_7 0 3.5f

xoutputmux
+ n_7 n_8 n_6 VGND VGND VPWR VPWR Z
+ sky130_fd_sc_hd__mux2_1

.ends
